US07414131B2
A. 7-Benzyl-N-(4-fluorophenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine
7-Benzyl-4-chloro-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine (0.25 g, 0.97 mmol) was dissolved in anhydrous acetonitrile (3 mL) and 4-fluorobenzenamine was added (0.10 mL, 1.06 mmol). The mixture was heated at 200° C. for 600 s in a microwave (Emrys Optimizer model, Personal Chemistry). The solvents were removed under vacuum to give the desired product as a beige powder (0.313 g, 97%.). The crude product was used for the subsequent step.

reactant | 7-Benzyl-4-chloro-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine | 0.97 mmol, 0.25 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)Cl | C14H14ClN3
reactant | 4-fluorobenzenamine | FC1=CC=C(C=C1)N | C6H6FN
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 7-Benzyl-N-(4-fluorophenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.313 g, 97% | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)F | C20H19FN4
